US04013652
1,2,7,8,9,10-hexahydro-5,8-dimethylpyrido[3',4':4,5]pyrrolo[1,2,3-de][1,4]benzoxazine hydrochloride
4-Amino-3,4-dihydro-7-methyl-2H-1,4-benzoxazine hydrochloride is reacted with 1-methyl-4-piperidone according to the procedure of Example 110 to yield the title compound, m.p. 248°-249° .

reactant | 4-Amino-3,4-dihydro-7-methyl-2H-1,4-benzoxazine hydrochloride | Cl.NN1CCOC2=C1C=CC(=C2)C
reactant | 1-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
product | 1,2,7,8,9,10-hexahydro-5,8-dimethylpyrido[3',4':4,5]pyrrolo[1,2,3-de][1,4]benzoxazine hydrochloride | Cl.CC1=CC2=C3N(CCO2)C2=C(C3=C1)CN(CC2)C | InChI=1S/C15H18N2O.ClH/c1-10-7-11-12-9-16(2)4-3-13(12)17-5-6-18-14(8-10)15(11)17;/h7-8H,3-6,9H2,1-2H3;1H
